US05847182
In the same apparatus and procedures as Example 1 above, 5.0 g (21.7 mmol) of para-terphenyl and 0.30 g (11.1 mmol) of aluminum were alkylated in CS2 (50 ml) solution with (2,2-dichloroethyl)trichlorosilane 6.68 g (21.7 mmol) under dry nitrogen atmospheric pressure for 24 hrs at reflux temperature. Freshly distilled hexane (100 ml) was added to the reaction mixture and insoluble solids in hexane were filtered from the organic solution. After hexane and CS2 were distilled, recrystallization from ether yielded 0.85 g of 9-(trichlorosilyl)methyl-2-phenylfluorene (yield; 10%).

reactant | para-terphenyl | 21.7 mmol, 5.0 g | C1(=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H14
reactant | aluminum | 11.1 mmol, 0.30 g | [Al] | Al
reactant | (2,2-dichloroethyl)trichlorosilane | 21.7 mmol, 6.68 g | ClC(C[Si](Cl)(Cl)Cl)Cl | C2H3Cl5Si
solvent | CS2 | 50 ml | C(=S)=S | CS2
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 9-(trichlorosilyl)methyl-2-phenylfluorene | 0.85 g, yield; 10% | Cl[Si](Cl)(Cl)CC1C2=CC=CC=C2C=2C=CC(=CC12)C1=CC=CC=C1 | C20H15Cl3Si
